US07842713B2
2-Methyl-4-{[1-(methylsulfonyl)azetidin-3-yl]oxy}-N-(2-methyl-2H-1,2,3-triazol-4-yl)-1-benzofuran-6-carboxamide
To a solution of 2-methyl-2H-1,2,3-triazol-4-amine (267 mg, 1.98 mmol) in dichloromethane (5 mL) at 0° C. was added Al(CH3)2Cl (1.98 mL, 1.98 mmol, 1M in hexanes) drop-wise. After the addition, the ice-bath was removed, and the mixture was stirred for 30 minutes at room temperature. Ethyl 2-methyl-4-{[1-(methylsulfonyl)azetidin-3-yl]oxy}-1-benzofuran-6-carboxylate (70 mg, 0.198 mmol) was added and the stirring was continued for 14 h. The reaction was quenched with potassium sodium tartrate tetrahydrate (20% w/w) cautiously. The product was extracted with CH2Cl2, washed with brine and dried over Na2SO4. The product was purified by gradient silica gel chromatography using CHCl3/MeOH (95/5 to 85/15) to give the title compound (55 mg, 68%) as a white solid after evaporation of the solvents. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.51 (s, 3 H) 2.94 (s, 3 H) 4.06-4.15 (m, 3 H) 4.16 (d, J=4.80 Hz, 2 H) 4.39 (dd, J=9.60, 6.32 Hz, 2 H) 5.05-5.23 (m, 1 H) 6.54 (s, 1 H) 6.97 (s, 1 H) 7.54 (s, 1 H) 8.12 (s, 1 H) 8.46 (s, 1 H); MS (ESI, pos): 406.

reactant | 2-methyl-2H-1,2,3-triazol-4-amine | 1.98 mmol, 267 mg | CN1N=CC(=N1)N | C3H6N4
reactant | Al(CH3)2Cl | 1.98 mmol, 1M, 1.98 mL | [Al](C)(C)Cl
reactant | Ethyl 2-methyl-4-{[1-(methylsulfonyl)azetidin-3-yl]oxy}-1-benzofuran-6-carboxylate | 0.198 mmol, 70 mg | CC=1OC2=C(C1)C(=CC(=C2)C(=O)OCC)OC2CN(C2)S(=O)(=O)C | C16H19NO6S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-Methyl-4-{[1-(methylsulfonyl)azetidin-3-yl]oxy}-N-(2-methyl-2H-1,2,3-triazol-4-yl)-1-benzofuran-6-carboxamide | 55 mg, 68% | CC=1OC2=C(C1)C(=CC(=C2)C(=O)NC2=NN(N=C2)C)OC2CN(C2)S(=O)(=O)C | C17H19N5O5S
